US05866611
1,3-Dibromopropane (15.76 ml) and potassium carbonate (4.69 g) were added to a solution of 3-allyl-4-hydroxybenzaldehyde (5 g) in acetone and the reaction mixture heated at reflux for 16 hours. The reaction mixture was cooled to ambient temperature and filtered. The filtrate was evaporated and the residue purified by flash column chromatography on silica gel (Merck Art No 9385) using a 10:90 (v/v) mixture of ethyl acetate/hexane as eluent to give 3-allyl-4-(3-bromopropoxy)benzaldehyde (4.86 g) as an oil which slowly solidified. NMR([CD3 ]2SO): 2.2-2.4(2H,m), 3.35-3.50(2H,m), 3.65-3.80(2H,t), 4.2-4.3(2H,t), 5.0-5.15(2H,m), 5.8-6.1(1H,m), 7.15-7.25(1H,d), 7.7(1H,d), 7.75-7.85(1H,q) and 9,85(1H,s).

reactant | 1,3-Dibromopropane | 15.76 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 4.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-allyl-4-hydroxybenzaldehyde | 5 g | C(C=C)C=1C=C(C=O)C=CC1O | C10H10O2
solvent | acetone | CC(=O)C | C3H6O
product | 3-allyl-4-(3-bromopropoxy)benzaldehyde | 4.86 g | C(C=C)C=1C=C(C=O)C=CC1OCCCBr | C13H15BrO2
